US06774241B2
A 500 mL round-bottomed flask equipped with a magnetic stirrer was charged with a solution of 4-benzyloxy-1-(2-fluorobenzenesulfonyl)-1H-indole (21.48 g, 0.056 mol) in 200 mL freshly distilled THF, followed by 5% palladium on carbon (0.100 g, 0.8 mol %). The flask was sealed with a rubber septum and purged with hydrogen gas at atmospheric pressure. The solution was stirred at ambient temperature for 6 hours. The catalyst was removed by filtration through celite, and the filtrate concentrated in vacuo. The resulting crude solid was recrystallized from ethyl ether (75 mL) to give 1-(2-fluorobenzenesulfonyl)-4-hydroxy-1H-indole as a white solid (6.55 g, 40%). MS: (M−H)−=290.1.

reactant | 4-benzyloxy-1-(2-fluorobenzenesulfonyl)-1H-indole | 0.056 mol, 21.48 g | C(C1=CC=CC=C1)OC1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=C(C=CC=C1)F | C21H16FNO3S
catalyst | palladium on carbon | 0.100 g | [Pd] | Pd
solvent | THF | C1CCOC1 | C4H8O
product | 1-(2-fluorobenzenesulfonyl)-4-hydroxy-1H-indole | 6.55 g, 40% | FC1=C(C=CC=C1)S(=O)(=O)N1C=CC2=C(C=CC=C12)O | C14H10FNO3S
